US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole to give [6-methoxy-1-(1H-pyrazol-4-yl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 307(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | [6-methoxy-1-(1H-pyrazol-4-yl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)C=1C=NNC1)NC1=NNC=C1 | C16H14N6O
